US08383820B2
(3-Hydroxy-8-aza-bicyclo[3.2.1]oct-8-yl)-[3-(tetrahydro-pyran-4-ylmethoxy)-phenyl]-methanone
Prepared from 3-(tetrahydro-pyran-4-yl-methoxy)-benzoic acid and 8-aza-bicyclo[3.2.1]octan-3-ol. LC-MS (m/z): 346 (M+1).

reactant | 3-(tetrahydro-pyran-4-yl-methoxy)-benzoic acid | O1CCC(CC1)COC=1C=C(C(=O)O)C=CC1 | C13H16O4
reactant | 8-aza-bicyclo[3.2.1]octan-3-ol | C12CC(CC(CC1)N2)O | C7H13NO
product | (3-Hydroxy-8-aza-bicyclo[3.2.1]oct-8-yl)-[3-(tetrahydro-pyran-4-ylmethoxy)-phenyl]-methanone | OC1CC2CCC(C1)N2C(=O)C2=CC(=CC=C2)OCC2CCOCC2 | C20H27NO4
